US06008196
b) Preparation of Boc-Val-Pro-Val-CF2CF2CF3
Add perfluoropropyl iodide (6.6 mL, 48.0 mmol, from Aldrich, stabilized with Cu) dropwise, under N2, to a -78° C. solution of Boc-Val-Pro-Val-OCH3 ] (3.89, 9.0 mmol) in anhydrous diethyl ether (100 mL). Add methyllithium-lithium bromide complex (28.5 mL, 42.0 mmol) at a rate which maintains an internal reaction temperature below -70° C. Stir the reaction mixture at -78° C. for 1 hour, then remove the cold bath and continue stirring for 5 minutes. Pour the reaction mixture into H2O (100 mL) and acidify the aqueous phase with 1N HCl. Extract the aqueous phase with additional diethyl ether (100 mL) and dry (MgSO4) the combined ethereal extracts. Remove the solvent in vacuo and purify the resultant yellow foam by flash chromatography (4.0×25 cm column eluted with 3:1 Et2O-hexane) to yield the title compound as a white foam. (Yield: 654 mg, 13%). FT-IR (KBr) 3423, 3292, 2972, 2937, 2879, 2823, 2771, 2739, 2253, 1755, 1687, 1635, 1525, 1444, 1392, 1367, 1348, 1313, 1232, 1178, 1126, 1041, 1018, 966, 922, 910, 877, 837, 798, 756, 736, 667, 650, 632, 596 cm-1 ; 1H NMR (300 MHz, CDCl3)δ 7.63 (d, 1H, J=8.2 Hz, NH), 5.44 (d, 1H, J=9.2 Hz, NH), 5.02 (dd, 1H, J=7.8, 4.5 Hz, CH of Val), 4.64 (dd, 1H, J=8.0, 3.0 Hz, CH of Pro), 4.30 (dd, 1H, J=9.2, 6.8 Hz, α-CH of Val), 3.80-3.74 and 3.66-3.60 (pr m, 2H, CH2N), 2.31-1.92 (series of m, 6H, β-CH of Val, CH2CH2), 1.44 (s, 9H, t-Bu), 1.02 (d, 3H, J=7.0 Hz, CH3), 0.98,(d, 3H, J=6.9 Hz, CH3), 0.94 (d, 3H, J=6.7 Hz, CH3), 0.88 (d, 3H, J=6.9 Hz, CH3); 13C NMRδ 193.3, 193.0, 192.7, 172.9, 171.1, 155.7, 118.7, 115.8, 111.3, 108.9, 108.6, 108.2, 105.9, 79.6, 77.3, 77.2, 76.9, 76.6, 59.7, 59.3, 56.8, 47.8, 31.4, 29.0, 28.3, 26.9, 25.1, 19.9, 19.8, 19.7, 19.5, 19.4, 17.5, 17.4, 16.3, 16.1; 19F NMR (376.3 MHz, CDCl3)δ -80.91 (t, CF3), -119.03 and -120.43 (AB quartet, J=297 Hz, CF2), -126.62 (s, CF2), MS (CI/CH4) m/z (rel. intensity) 566 (MH+, 100). HRMS (C23H34F7N3O5) (M+) calcd 566.2492, obsd 566.2475.

reactant | perfluoropropyl iodide | 48.0 mmol, 6.6 mL | FC(C(C(F)(F)F)(F)F)(F)I | C3F7I
reactant | Boc-Val-Pro-Val-OCH3 | N([C@@H](C(C)C)C(=O)N1[C@H](C(=O)N[C@@H](C(C)C)C(=O)OC)CCC1)C(=O)OC(C)(C)C | C21H37N3O6
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | Boc-Val-Pro-Val-CF2CF2CF3 | N([C@@H](C(C)C)C(=O)N1[C@H](C(=O)N[C@@H](C(C)C)C(=O)C(F)(F)C(F)(F)C(F)(F)F)CCC1)C(=O)OC(C)(C)C | C23H34F7N3O5
